US07446118B2
[3-(1,3-Bis-methanesulfonyl-1H-indol-5-yl)-3-phenyl-propyl]-methyl-carbamic acid tert-butyl ester LXXVII was deprotected following the same procedure described above for [3-(1-Methanesulfonyl-1H-indol-5-yl)-3-phenyl-propyl]-methyl-carbamic acid tert-butyl ester LXXVI to afford [3-(1,3-Bis-methanesulfonyl-1H-indol-5-yl)-3-phenyl-propyl]-methyl-amine LXXIX as a colorless oil in quantitative yield.

reactant | [3-(1,3-Bis-methanesulfonyl-1H-indol-5-yl)-3-phenyl-propyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCC(C1=CC=CC=C1)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C)S(=O)(=O)C)=O | C25H32N2O6S2
reactant | [3-(1-Methanesulfonyl-1H-indol-5-yl)-3-phenyl-propyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCC(C1=CC=CC=C1)C=1C=C2C=CN(C2=CC1)S(=O)(=O)C)=O | C24H30N2O4S
product | [3-(1,3-Bis-methanesulfonyl-1H-indol-5-yl)-3-phenyl-propyl]-methyl-amine | quantitative yield | CS(=O)(=O)N1C=C(C2=CC(=CC=C12)C(CCNC)C1=CC=CC=C1)S(=O)(=O)C | C20H24N2O4S2
